US04425424
Preparation 3. Synthesis of N-(4-Chlorobenzenesulfonyloxy)phthalimide
In a 3-neck, 500 ml round bottom flask, dichloromethane (100 ml) was added to 16.3 g (0.10 mole) of N-hydroxyphthalimide. To this was added 21.1 g (0.10 mole) of 4-chlorobenzenesulfonyl chloride. To this suspension at ice-bath temperature, with slow stirring, was added dropwise 10.1 g (0.10 mole) of triethylamine in 50 ml of dichloromethane. This stirred reaction mixture was held at ambient temperature for 72 hours. Then, more dichloromethane and 100 ml of water were added to the suspension. The dichloromethane extract was dried with magnesium sulfate. Solvent was removed under reduced pressure and the residue was recrystallized from 500 ml of ethyl acetate to give 10.2 g of a white solid, mp 178°-180° C.

reactant | N-hydroxyphthalimide | 0.10 mole, 16.3 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 4-chlorobenzenesulfonyl chloride | 0.10 mole, 21.1 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | triethylamine | 0.10 mole, 10.1 g | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-(4-Chlorobenzenesulfonyloxy)phthalimide | 10.2 g | ClC1=CC=C(C=C1)S(=O)(=O)ON1C(C=2C(C1=O)=CC=CC2)=O | C14H8ClNO5S
